US05654299
a. 1-Benzyloxycarbonyl-4-hydroxy-4-(2-methylthiophenyl)piperidine
A solution of 2-bromothioanisole (1.05 g) in 20 mL of anhydrous tetrahydrofuran was cooled to -78° C. and treated with 2 mL of 2.5M hexane solution of n-butyl lithium. After the addition was complete the reaction mixture was stirred for 30 minutes and then treated with a solution of N-benzyloxycarbonyl-4-oxopiperidine (1.17 g) in 1 mL of tetrahydrofuran. After stirring at -78° C. for 30 minutes the reaction mixture was allowed to warm to 6° C. and treated with 10 mL of water. Upon extracting with ethyl acetate, drying and evaporation, the organic layer afforded the crude product. This material was purified by chromatography; elution with 6:4 hexane:ethyl acetate afforded the named material (0.27 g); MS: 358; NMR: 1.9-2.1 (b, 4), 2.5 (s, 3), 3.4 (b, 2), 4.1b (b, 2), 5.1 (s, 2), 7.1-7.5 (m, 9).

reactant | 2-bromothioanisole | 1.05 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | hexane | 2.5M, 2 mL | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | N-benzyloxycarbonyl-4-oxopiperidine | 1.17 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1-Benzyloxycarbonyl-4-hydroxy-4-(2-methylthiophenyl)piperidine | 0.27 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)SC)O | C20H23NO3S
